US08110579B2
According to the method described in example 10.2, starting from 2.79 g (7.94 mmol) of methyl 2-bromo-2′,6′-dimethoxybiphenyl-4-carboxylate and 3.28 g (9.53 mmol) of 2-[3-(benzyloxy)-4-chlorophenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane, we obtain 1.75 g of methyl 3″-(benzyloxy)-4″-chloro-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-carboxylate in the form of oil.

reactant | methyl 2-bromo-2′,6′-dimethoxybiphenyl-4-carboxylate | 7.94 mmol, 2.79 g | BrC1=C(C=CC(=C1)C(=O)OC)C1=C(C=CC=C1OC)OC | C16H15BrO4
reactant | 2-[3-(benzyloxy)-4-chlorophenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 9.53 mmol, 3.28 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)B1OC(C(O1)(C)C)(C)C | C19H22BClO3
product | methyl 3″-(benzyloxy)-4″-chloro-2,6-dimethoxy-1,1′:2′,1″-terphenyl-4′-carboxylate | 1.75 g, Yield=45% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)C=1C(=CC=C(C1)C(=O)OC)C1=C(C=CC=C1OC)OC | C29H25ClO5
